US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (2.0 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (1.91 g) as starting materials, 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.76 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 2.0 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 1.91 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.76 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C | C36H40N2O2
